US04009208
122. 4-Methoxy-4'-trifluoromethoxy-N,N'-heptamethylenebis(benzamide)
A mixture containing 12 g. of N-(6-cyanohexyl)-4-trifluoromethoxybenzamide in 100 ml. of ethanol, 8 g. of ammonia and 4 g. of Raney nickel was hydrogenated at approximately 30° C. for a period of 5 hours. The reaction mixture was filtered and the solvent and excess ammonia were removed by heating in vacuo. The residual material was dissolved in 150 ml. of isopropyl alcohol acidified with ethanolic hydrogen chloride and the solution was concentrated in vacuo to about 100 ml. The solution was cooled in an ice bath and the solid that separated was collected, washed with cold isopropyl alcohol and ether, and dried at 60° C. in vacuo to yield 9 g. of N-(7-aminoheptyl)-4-trifluoromethoxybenzamide as its hydrochloride, m.p. 178°-181° C.

reactant | N-(6-cyanohexyl)-4-trifluoromethoxybenzamide | C(#N)CCCCCCNC(C1=CC=C(C=C1)OC(F)(F)F)=O | C15H17F3N2O2
reactant | ammonia | N | H3N
reactant | N-(7-aminoheptyl)-4-trifluoromethoxybenzamide | NCCCCCCCNC(C1=CC=C(C=C1)OC(F)(F)F)=O | C15H21F3N2O2
reactant | hydrochloride | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
product | 4-Methoxy-4'-trifluoromethoxy-N,N'-heptamethylenebis(benzamide) | COC(CCCNC(C1=CC=CC=C1)=O)CCCNC(C1=CC=C(C=C1)OC(F)(F)F)=O | C23H27F3N2O4
